US07528147B2
2-[5,6-Dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)-indol-1-yl]-1-thiazolidin-3-ylethanone is prepared by following the procedure described in example 93, but using 0.2 g of 2-[5,6-dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)indol-1-yl]acetic acid and 0.061 g of thiazolidine. 0.133 g of 2-[5,6-dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)indol-1-yl]-1-thiazolidin-3-ylethanone is obtained, the characteristics of which are as follows:

reactant | 2-[5,6-dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)indol-1-yl]acetic acid | 0.2 g | COC=1C=C2C(=CN(C2=CC1OC)CC(=O)O)C1=CC=2C(=NC=CC2)N1 | C19H17N3O4
reactant | thiazolidine | 0.061 g | S1CNCC1 | C3H7NS
product | 2-[5,6-dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)indol-1-yl]-1-thiazolidin-3-ylethanone | 0.133 g | COC=1C=C2C(=CN(C2=CC1OC)CC(=O)N1CSCC1)C1=CC=2C(=NC=CC2)N1 | C22H22N4O3S
